US08017801B2
Before the start of the reaction, the loop reactor is filled with a solution of 23.1% by weight of tert-amyl hydroperoxide, 9.9% by weight of potassium hydroxide and 8.3% by weight of sodium hydroxide in water. Initially 20.0 kg/h of a solution of 88% by weight of tert-amyl hydroperoxide in water, 15.8 kg/h of a solution of 45% by weight of potassium hydroxide in water, 11.8 kg/h of a solution of 50% by weight of sodium hydroxide in water, 24.2 kg/h of water and 18.0 kg/h of pivaloyl chloride are then fed to the loop reactor. Cooling with cooling water keeps the internal temperature at 18° C. in the loop reactor and at 10° C. in the stirred cell reactor. The partial neutralization is effected with 11.4 kg/h of 31% by weight hydrochloric acid with addition of 7.4 kg/h of isododecane at a temperature of 10° C. The organic phase is extracted with 27.8 kg/h of a 16% by weight aqueous solution of potassium hydroxide. This affords 29.4 kg/h of aqueous extract comprising 5.8% by weight of tert-amyl hydroperoxide and 15.1% by weight of potassium hydroxide, which are feeded into the loop reactor. From the time at which aqueous extract is recycled into the loop reactor, the metered addition of the feedstocks is changed to 18.2 kg/h of a solution of 88% by weight of tert-amyl hydroperoxide in water, 5.8 kg/h of a solution of 45% by weight of potassium hydroxide in water and 6.6 kg/h of water. After the extraction, the organic phase is washed with 36 kg/h of a solution of 5% by weight of sodium sulphite and 0.2% by weight of sulphuric acid, and dried by stripping at 20° C. and 45 mbar. 34.4 kg/h of a 76.6% by weight solution of tert-amyl peroxypivalate in isododecane are obtained (93.9% yield based on pivaloyl chloride).

reactant | tert-amyl hydroperoxide | C(C)(C)(CC)OO | C5H12O2
reactant | potassium hydroxide | [OH-].[K+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | pivaloyl chloride | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | hydrochloric acid | Cl | ClH
reactant | isododecane | CCCCCCCCCC(C)C | C12H26
solvent | water | O | H2O
product | tert-amyl peroxypivalate | 93.9% yield | C(C(C)(C)C)(=O)OOC(C)(C)CC | C10H20O3
